US07271264B2
5-Methoxy-3H-benzo[c][1,2]oxaborol-1-ol
Dissolve 1-bromo-2-(1-ethoxy-ethoxymethyl)-4-methoxy-benzene (3.0 g, 10.3 mmol)in THF (100 mL) and cool to −78° C. Add 2.5M butyllithium in hexanes (4.6 mL, 11.4 mmol), dropwise and stir for 15 min. Add trimethylborate (2.1 g, 20.6 mmol) to the reaction mixture and warm to room temperature. Add 1N HCl (100 mL) and stir at room temperature for 2 hours. Extract three times with methylene chloride, dry the combined organic layers with sodium sulfate, filter and concentrate in vacuo to yield a crude product. Triturate with methylene chloride/hexanes to yield 680 mg (40%) of the title compound. 1H NMR (CDCl3) δ 7.65 (d, J=8.2 Hz, 1H), 6.93 (dd, J=8.2, 2.1 Hz, 1H), 6.85 (d, J=1.4 Hz, 1H), 5.06 (s, 2H), 3.86 (s, 3H).

reactant | 1-bromo-2-(1-ethoxy-ethoxymethyl)-4-methoxy-benzene | 10.3 mmol, 3.0 g | BrC1=C(C=C(C=C1)OC)COC(C)OCC | C12H17BrO3
reactant | butyllithium | 2.5M | C(CCC)[Li]
reactant | trimethylborate | 20.6 mmol, 2.1 g | COB(OC)OC | C3H9BO3
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-Methoxy-3H-benzo[c][1,2]oxaborol-1-ol | 680 mg, 40% | COC1=CC2=C(B(OC2)O)C=C1 | C8H9BO3
